US05276123
Synthesis of 1-(3-(2,2,4-trimethyl-1-aza-2-silacyclopentyl)-propyl)-3-(2-trimethoxysilylethyl)-1,1,3,3-tetramethyldisiloxane
A mixture of the 20.67 g (68.1 mmol) of 1-(3-(2,2,4-trimethyl-1-aza-2-silacyclopentyl)propyl-1,1,3,3-tetramethyldisiloxane, 10.6 g (71.5 mmol) of vinyltrimethoxysilane which had been distilled from sodium, and 0.03 g of a chloroplatinic acid-1,3-divinyl-1,1,3,3-tetramethyldisiloxane complex having about 0.7 weight percent platinum was heated for one hour at 120° C. The resulting product was distilled and the distillate was collected at 152° C. and 0.1 mm Hg. The amount of distillate collected was 28.2 g of 1-(3-(2,2,4-trimethyl-1-aza-2-silacyclopentyl)propyl)-3-(2-trimethoxysilylethyl)-1,1,3,3-tetramethyldisiloxane which was identified by 13C and 29Si NMR (nuclear magnetic resonance) and GC-MS.

reactant | 3-(2,2,4-trimethyl-1-aza-2-silacyclopentyl)propyl-1,1,3,3-tetramethyldisiloxane | C[Si]1(N(CC(C1)C)CCC[Si](O[SiH](C)C)(C)C)C | C13H33NOSi3
reactant | vinyltrimethoxysilane | 71.5 mmol, 10.6 g | C(=C)[Si](OC)(OC)OC | C5H12O3Si
product | 1-(3-(2,2,4-trimethyl-1-aza-2-silacyclopentyl)-propyl)-3-(2-trimethoxysilylethyl)-1,1,3,3-tetramethyldisiloxane | C[Si]1(N(CC(C1)C)CCC[Si](O[Si](C)(C)CC[Si](OC)(OC)OC)(C)C)C | C18H45NO4Si4
